US07351725B2
Step A: (R/S)-Diethyl 3-benzyloxycarbonylamino-1-hydroxypropylphosphonate
To a solution of potassium bis(trimethylsilyl)amide (1.13 g, 5.66 mmol) in tetrahydrofuran (10 mL) at 0° C. was added diethyl phosphite (0.73 g, 5.66 mmol). After 10 min, 3-(benzyloxycarbonylamino)propanal (0.78 g, 3.77 mmol) was added as a solution in tetrahydrofuran (5 mL). After 30 min, the reaction was quenched by the addition of 2N hydrochloric acid (25 mL) and extracted with ethyl acetate (50 mL). The organic layer was washed with sat'd sodium chloride (50 mL), dried over magnesium sulfate and concentrated in vacuo. Silica gel chromatography eluting with hexane/acetone (1:1) gave a colorless oil (0.36 g): ESI-MS 346.1 (M+H).

reactant | potassium bis(trimethylsilyl)amide | 5.66 mmol, 1.13 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | diethyl phosphite | 5.66 mmol, 0.73 g | P(OCC)(OCC)[O-]
reactant | 3-(benzyloxycarbonylamino)propanal | 3.77 mmol, 0.78 g | C(C1=CC=CC=C1)OC(=O)NCCC=O | C11H13NO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (R/S)-Diethyl 3-benzyloxycarbonylamino-1-hydroxypropylphosphonate | 0.36 g | C(C1=CC=CC=C1)OC(=O)NCCC(O)P(OCC)(OCC)=O | C15H24NO6P
